US04987132
A solution of 580 mg of N-carboethoxy-N'-(3-phenylpropyl)ethylenediamine in 10 ml of concentrated hydrochloric acid was heated in a sealed tube at 120° C. overnight. The mixture was concentrated under reduced pressure. Toluene was added and the mixture was again concentrated. Two repetitions of this procedure gave 630 mg of N-(3-phenylpropyl)ethylenediamine dihydrochloride. This product was submitted to the next step without purification.

reactant | N-carboethoxy-N'-(3-phenylpropyl)ethylenediamine | 580 mg | C(=O)(OCC)NCCNCCCC1=CC=CC=C1 | C14H22N2O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
product | N-(3-phenylpropyl)ethylenediamine dihydrochloride | 630 mg | Cl.Cl.C1(=CC=CC=C1)CCCNCCN | InChI=1S/C11H18N2.2ClH/c12-8-10-13-9-4-7-11-5-2-1-3-6-11;;/h1-3,5-6,13H,4,7-10,12H2;2*1H
